US05574062
A mixture of 5.51 g (50.0 mmol) of 5-methylfuran-2-carboxaldehyde (purchased from Wako Junyaku Kogyo), 6.66 g (50.0 mmol) of rhodanine (purchased from Tokyo Kasei) 12.3 g (150 mmol) of anhydrous sodium acetate (purchased from Kokusan Kagaku) in 35 ml of acetic acid (purchased from Wako Junyaku Kogyo) was refluxed for 30 minutes, cooled and added to 500 ml of water, and the precipitate was collected, washed with water, ethanol and ether in order and dried to give 10.04 g (yield: 89.1%) of of (5-methylfurfurylidene)rhodanine as an orange brown crystalline.

reactant | 5-methylfuran-2-carboxaldehyde | 50.0 mmol, 5.51 g | CC1=CC=C(O1)C=O | C6H6O2
reactant | rhodanine | 50.0 mmol, 6.66 g | S1C(=S)NC(=O)C1 | C3H3NOS2
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | water | 500 ml | O | H2O
solvent | acetic acid | 35 ml | C(C)(=O)O | C2H4O2
product | (5-methylfurfurylidene)rhodanine | yield: 89.1% | CC1=CC=C(C=C2C(NC(S2)=S)=O)O1 | C9H7NO2S2
